US04420487
Preparation of 5-Chloro-2-Difluoromethyl-6-Sulfamyl-1H-Benzimidazole
To 25 ml of 6 N hydrochloric acid containing 2.22 g of 2-amino-4-chloro-5-sulfamylaniline was added 1.50 g of difluoroacetic acid and the mixture refluxed for 12 hours. The resultant solid was collected by filtration and then added to concentrated ammonium hydroxide to yield the free base which was then suspended in water at 50° C. The solid was then collected by filtration, dissolved in methanol, the methanol brought to a boil, charcoal added, and the suspension filtered through two sheets of filter paper, and then through Celite. Concentration in vacuo provided a brown solid which upon recrystallization from acetonitrile yielded a pink solid, m.p. 233°-235°.

reactant | hydrochloric acid | 6 N, 25 ml, 2.22 g | Cl | ClH
reactant | 2-amino-4-chloro-5-sulfamylaniline | NC1=C(N)C=C(C(=C1)Cl)S(N)(=O)=O | C6H8ClN3O2S
reactant | difluoroacetic acid | 1.50 g | FC(C(=O)O)F | C2H2F2O2
solvent | water | O | H2O
product | 5-Chloro-2-Difluoromethyl-6-Sulfamyl-1H-Benzimidazole | ClC1=CC2=C(NC(=N2)C(F)F)C=C1S(N)(=O)=O | C8H6ClF2N3O2S
